US06784192B2
1-[(2-Methoxy-3-pyridinyl)methyl]-4-[(E)-2-[(2-cyclohexylmethyloxy)phenyl)-1-etheny]piperidine
To acetonitrile (10 ml) were added 500 mg of 2-methoxy-3-(chloromethyl)pyridine, 1.04 g of 4-[(E)-2-[(2-cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine and 531 mg of potassium carbonate, followed by stirring at room temperature overnight. Ethyl acetate was added to the reaction solution, and the mixture was filtered through alumina-silica gel. Then, the solvent was evaporated, and the crude product was purified by silica gel column chromatography (hexane:ethyl acetate=8:1), to give 961 mg of the title compound as a pale yellow oil.

reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 2-methoxy-3-(chloromethyl)pyridine | 500 mg | COC1=NC=CC=C1CCl | C7H8ClNO
reactant | 4-[(E)-2-[(2-cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine | 1.04 g | C1C(CCCC1)COC1=C(C=CC=C1)/C=C/C1CCNCC1 | C20H29NO
reactant | potassium carbonate | 531 mg | C([O-])([O-])=O.[K+].[K+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(2-Methoxy-3-pyridinyl)methyl]-4-[(E)-2-[(2-cyclohexylmethyloxy)phenyl)-1-etheny]piperidine | 961 mg | COC1=NC=CC=C1CN1CCC(CC1)\C=C\C1=C(C=CC=C1)OCC1CCCCC1 | C27H36N2O2
